US06310208B1
39.4 ml (63 mmol) of a 1.6N solution of n-butyllithium in hexane were added over a period of 15 minutes while stirring at −40° to a suspension of 28.3 g (66 mmol) of ethoxycarbonylmethyl-triphenylphosphonium bromide in 200 ml of tetrahydrofuran. The reaction mixture was stirred at 0° for one hour, cooled to −70° and treated dropwise over 30 minutes with a solution of 11.6 g (60 mmol) of 4-ethyl-3,5-dimethoxybenzaldehyde in 100 ml of tetrahydrofuran. Subsequently, the mixture was stirred at room temperature for a further 16 hours, poured into 600 ml of saturated sodium chloride solution and extracted twice with 800 ml of diethyl ether each time. The combined organic phases were washed once with 600 ml of saturated sodium chloride solution, dried (MgSO4) and concentrated in a vacuum. The crude product obtained was purified by column chromatography on silica gel (hexane/ethyl acetate 5:1). 12.5 g (79%) of ethyl 3-(4-ethyl-3,5-dimethoxy-phenyl)-acrylate were obtained as a white solid.

reactant | n-butyllithium | C(CCC)[Li]
reactant | ethoxycarbonylmethyl-triphenylphosphonium bromide | 66 mmol, 28.3 g | [Br-].C(C)OC(=O)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 4-ethyl-3,5-dimethoxybenzaldehyde | 60 mmol, 11.6 g | C(C)C1=C(C=C(C=O)C=C1OC)OC | C11H14O3
reactant | sodium chloride | 600 ml | [Cl-].[Na+]
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | ethyl 3-(4-ethyl-3,5-dimethoxy-phenyl)-acrylate | 12.5 g, 79% | C(C)C1=C(C=C(C=C1OC)C=CC(=O)OCC)OC | C15H20O4
